US05811459
Methyl 4-[3-(3-benzyloxy-2-pyridyl)prop-2-enyl]benzoate (1.5 g, 4.2 mmol) was dissolved in ethanol (5 ml) and EtOAc (15 ml), treated with 10% palladium on carbon (0.15 g) and placed under a hydrogen atmosphere. The mixture was stirred at ambient temperature for 10 hours and filtered and evaporated to give methyl 4-[3-(3-hydroxy-2-pyridyl)propyl]benzoate as a yellow oil (0.88 g, 77%).

reactant | Methyl 4-[3-(3-benzyloxy-2-pyridyl)prop-2-enyl]benzoate | 4.2 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C=CCC1=CC=C(C(=O)OC)C=C1 | C23H21NO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
product | methyl 4-[3-(3-hydroxy-2-pyridyl)propyl]benzoate | 0.88 g, 77% | OC=1C(=NC=CC1)CCCC1=CC=C(C(=O)OC)C=C1 | C16H17NO3
